US09120805B2
1H-Pyrrole-2-carbonitrile (0.84 ml; 9.42 mmol) and 1-{4-[4-(2-bromo-acetyl)phenyl]-piperidin-1-yl}-2,2,2-trifluoro-ethanone (2.74 g; 7.25 mmol) are dissolved in acetone (25 ml). To this clear brown solution potassium carbonate (2 g; 14.49 mmol) is added and the mixture is stirred at room temperature overnight. The reaction mixture is filtered off by suction and washed with acetone. The filtrate is evaporated to dryness. The residue is purified by flash chromatography to afford 1-(2-oxo-2-{4-[1-(2,2,2-trifluoro-acetyl)-piperidin-4-yl]-phenyl}-ethyl)-1H-pyrrole-2-carbonitrile as pale off-white crystals.

reactant | 1H-Pyrrole-2-carbonitrile | 9.42 mmol, 0.84 ml | N1C(=CC=C1)C#N | C5H4N2
reactant | 1-{4-[4-(2-bromo-acetyl)phenyl]-piperidin-1-yl}-2,2,2-trifluoro-ethanone | 7.25 mmol, 2.74 g | BrCC(=O)C1=CC=C(C=C1)C1CCN(CC1)C(C(F)(F)F)=O | C15H15BrF3NO2
reactant | potassium carbonate | 14.49 mmol, 2 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 1-(2-oxo-2-{4-[1-(2,2,2-trifluoro-acetyl)-piperidin-4-yl]-phenyl}-ethyl)-1H-pyrrole-2-carbonitrile | O=C(CN1C(=CC=C1)C#N)C1=CC=C(C=C1)C1CCN(CC1)C(C(F)(F)F)=O | C20H18F3N3O2
